US06492383B1
[6-(4-{[(Furan-2-ylmethyl)-amino]-methyl}-phenyl)-thieno[3,2-d]pyrimidin-4-yl]-(1H-indol-5-yl)-amine
The title compound was prepared from C-furan-2-yl-methylamine and 4-[4-(1H-indol-5-ylamino)-thieno[3,2-d]pyrimidin-6-yl]-benzaldehyde by a procedure analogous to example 17. M.P. 125-134° C.; LC-MS: 452 (MH+); HPLC RT: 4.51 minutes.

reactant | C-furan-2-yl-methylamine | O1C(=CC=C1)CN | C5H7NO
reactant | 4-[4-(1H-indol-5-ylamino)-thieno[3,2-d]pyrimidin-6-yl]-benzaldehyde | N1C=CC2=CC(=CC=C12)NC=1C2=C(N=CN1)C=C(S2)C2=CC=C(C=O)C=C2 | C21H14N4OS
product | [6-(4-{[(Furan-2-ylmethyl)-amino]-methyl}-phenyl)-thieno[3,2-d]pyrimidin-4-yl]-(1H-indol-5-yl)-amine | O1C(=CC=C1)CNCC1=CC=C(C=C1)C1=CC=2N=CN=C(C2S1)NC=1C=C2C=CNC2=CC1 | C26H21N5OS
